US05925633
A mixture of (3R,5S)-3-(4-chlorobenzenesulfonyl)oxymethyl-4-oxa-1-azabicyclo [3,2,0] heptan-7-one (400 mg, 1.26 mmol), sodium azide (212 mg, 3.8 mmol) and DMF (5 ml) was stirred at 65° C. for 2 hrs. The resulting mixture was diluted with ethyl acetate, washed with water, brine, and dried over sodium sulfate. After removal of solvent, the residue was purified by silica gel column chromatography using hexane-ethyl acetate (2:1) as eluent and 210 mg of (3S,5S)-3-azidomethyl-4-oxa-1-azabicyclo [3,2,0] heptan-7-one was obtained.

reactant | (3R,5S)-3-(4-chlorobenzenesulfonyl)oxymethyl-4-oxa-1-azabicyclo [3,2,0] heptan-7-one | 1.26 mmol, 400 mg | ClC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1CN2C(C[C@@H]2O1)=O | C12H12ClNO5S
reactant | sodium azide | 3.8 mmol, 212 mg | [N-]=[N+]=[N-].[Na+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,5S)-3-azidomethyl-4-oxa-1-azabicyclo [3,2,0] heptan-7-one | 210 mg, Yield: 99% | N(=[N+]=[N-])C[C@@H]1CN2C(C[C@@H]2O1)=O | C6H8N4O2
